US07408065B2
a) 6-Chloro-2-(4-cyano-1-piperidinyl)-N-(cyclohexylmethyl)-5-quinolinecarboxamide
Prepared according to the method of example 51, using 2,6-dichloro-N-(cyclohexylmethyl)-5-quinolinecarboxamide Example 43(a)) (0.25 g), and 4-cyanopiperidine hydrochloride (0.25 g) to afford the title compound (0.27 g).

reactant | 2,6-dichloro-N-(cyclohexylmethyl)-5-quinolinecarboxamide | ClC1=NC=2C=CC(=C(C2C=C1)C(=O)NCC1CCCCC1)Cl | C17H18Cl2N2O
reactant | 4-cyanopiperidine hydrochloride | 0.25 g | Cl.C(#N)C1CCNCC1
product | 6-Chloro-2-(4-cyano-1-piperidinyl)-N-(cyclohexylmethyl)-5-quinolinecarboxamide | 0.27 g | ClC1=C(C=2C=CC(=NC2C=C1)N1CCC(CC1)C#N)C(=O)NCC1CCCCC1 | C23H27ClN4O
